US04670553
[1-[[[[(Chloroacetyl)amino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
(S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone (4.4 g) was suspended in 150 ml of dry ethyl acetate. The mixture was cooled to -50° C. and 3.3 g of chlorosulfonyl isocyanate was added with stirring; stirring was continued without cooling until the temperature reached 0° C. N-(Trimethylsilyl)chloroacetamide (6.0 g) was added and the solution was stirred overnight. The insoluble material was filtered off and the filtrate washed with water. The organic layer was extracted twice with saturated aqueous sodium bicarbonate. The alkaline aqueous layer was acidified to pH 1 with 20% hydrochloric acid and extracted twice with 150 ml portions of ethyl acetate. The organic layers were combined, dried and evaporated to dryness. The oily residue was dissolved in 50 ml of acetone and the pH was adjusted to 6.5 by addition of lN potassium hydroxide. The solvent was removed in vacuo and the crystalline residue filtered with ether, yielding 3.9 g of the title compound.

reactant | (S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone | 4.4 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | chlorosulfonyl isocyanate | 3.3 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-(Trimethylsilyl)chloroacetamide | 6.0 g | C[Si](NC(CCl)=O)(C)C | C5H12ClNOSi
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | [1-[[[[(Chloroacetyl)amino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 3.9 g | ClCC(=O)NS(=O)(=O)NC(=O)N1C(C(C1)NC(OCC1=CC=CC=C1)=O)=O | C14H15ClN4O7S
